* This file is an extract from the Nat Semi model library
* that we have carved up to use for demonstrating the
* SPICELINK utility.
*
* Model developed by:
* David Hindi
* National Semiconductor       For information on the models, contact:
* 2900 Semiconductor Dr.       Linear Applications    
* Santa Clara, CA 95052        (408) 721-3877 
* M/S C2500                     
* FAX (408) 721-7321           For ordering information, contact:
*                              Customer Response Center
*                              (408) 721-4902
* ---------------------------------------------------------
*//////////////////////////////////////////////////////////
*LMC660AM/AI/C CMOS Quad OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LMC660      1   2  99  50  41
*
*Features:
*Operates from single supply
*Rail-to-rail output swing
*Ultra low input current =             40fA
*Slew rate =                        1.1V/uS
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/4 of total device current.
*      Noise is not modeled.
*      Asymmetrical gain is not modeled.
*
*****************INPUT STAGE************** 
*
I1  99  4 20U
M1   5  2 4 99 MOSFET
R3   5 50 5.2696K
M2   6  7 4 99 MOSFET
R4   6 50 5.2696K
*Fp2=7.5 MHz
C4   5  6 2.0135P
CI1  1  0 2P
CI2  2  0 2P
DP1  1 99 DA
DP2 50  1 DX
DP3  2 99 DX
DP4 50  2 DB
G0  98  9 6 5 23.721E-3
R0  98  9 1K
*For accurate Ib , set GMIN<=1E-16 on .OPTIONS line.
*
***********COMMON MODE EFFECT***********
*
I2  99 50 305U
*^Quiescent current                   
EOS  7  1 POLY(1) 16 49 1E-3 1
*Offset voltage.........^
R8  99 49 100K
R9  49 50 100K
*
***************POLE STAGE*************** 
*
*Fp=13.3 MHz
G3  98 15 9 49 1E-3
R12 98 15 1K
C5  98 15 11.967P
*
************POLE/ZERO STAGE*************
*
*Fp=1 MHz, Fz= 2.6MHz
G5  98 18 15 49 1E-3
R14 98 18 1K
R15 98 19 625
C6  19 18 97.94P
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=20 KHz
G4  98 16 POLY(2) 1 49 2 49 0 3.5397E-8 3.5397E-8
L2  98 17 7.958M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
EH  99 98 99 49 1
G1  98 29 18 49 8.253E-6
R5  98 29 510.8MEG
D1   8 99 DX
V2   8 29 1.363
D2  50 10 DX
V3  29 10 1.363
F6  99 50 VA7 1
*^Dynamic supply current
F5  99 35 VA8 1
D3  36 35 DX
VA7 99 36 0
D4  35 99 DX
E1  99 37 99 49 1
VA8 37 38 0
G6  38 40 49 29 11.765E-3
R16 38 40 2.688K  
D5  30 99 DX
V4  30 40 .77
D6  50 31 DX
V5  40 31 .77
*Fp1=.5294 Hz
C3  29 39 18.182P
R6  39 40 1K
R17 40 41 47
*
***************MODELS USED**************
*
.MODEL DA D(IS=5E-14)
.MODEL DB D(IS=4E-14)
.MODEL DX D(IS=1E-14)
.MODEL MOSFET PMOS(VTO=-2.35 KP=1.801E-3)
.ENDS
*
*
* This is the 2N2222 model supplied with the PSPICE demo
*** 2N2222 ***
*
.MODEL Q2N2222	NPN(IS=3.108E-15 XTI=3 EG=1.11 VAF=131.5 BF=217.5 NE=1.541 
+		ISE=190.7E-15 IKF=1.296 XTB=1.5 BR=6.18 NC=2 ISC=0 IKR=0 RC=1
+		CJC=14.57E-12 VJC=.75 MJC=.3333 FC=.5 CJE=26.08E-12 VJE=.75
+		MJE=.3333 TR=51.35E-9 TF=451E-12 ITF=.1 VTF=10 XTF=2)

